US06248739B1
N-(4-Chlorobenzyl)-1-(4-hydroxy-2-butynyl)-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A dry flask containing N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (0.20 gm) from Preparation No. 40 in dry THF (5 mL) under an argon atmosphere is added triphenylphosphine (393 mg), 1,4-butyne diol (0.45 gm) and diethyl azodicarboxylate (0.18 mL). The mixture is stirred at room temperature overnight, concentrated under reduced pressure and adsorbed onto silica gel. The crude product is purified by flash column chromatography eluting with 2% to 6% methanol in dichloromethane and then by recrystallization from methanol-acetonitrile to afford 0.16 gm of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 0.20 gm | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)CN2CCOCC2)C=C1 | C22H22ClN3O3
reactant | triphenylphosphine | 393 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,4-butyne diol | 0.45 gm | C(#CCCO)O | C4H6O2
reactant | diethyl azodicarboxylate | 0.18 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(4-Chlorobenzyl)-1-(4-hydroxy-2-butynyl)-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.16 gm | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCOCC2)CC#CCO)C=C1 | C26H26ClN3O4
